US03954733
To a mixture of 1.35 g of DL- 2-p-hydroxyphenylglycine, 50 ml of anhydrous dichloromethane and 4.05 of triethylamine, 2.62 g of trimethylchlorosilane were added, and the resulting mixture was refluxed for 20 minutes. After the addition of 2.1 g of 4-hydroxy-1,5-naphthyridine-3-carbonyl chloride hydrochloride, the reaction was effected while cooling with ice for 4 hours. The reaction mixture was concentrated under reduced pressure, 50 ml of water were added to the residue, and the resulting mixture was adjusted to pH 1 with 4N hydrochloric acid. The precipitated crystals were collected by filtration, suspended in 50 ml of water and potassium carbonate was added thereto. After removal of insoluble materials by filtration, the filtrate was adjusted to pH 1. The precipitated crystals were collected by filtration, washed with water and dried to give 2.1 g of DL-α-(4-hydroxy-1,5-napthyridine-3-carboxamido)-p-hydroxyphenylacetic acid. M.P. 310° to 320°C (decomp.)

reactant | 2-p-hydroxyphenylglycine | OC1=CC=C(C=C1)C(N)C(=O)O | C8H9NO3
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | trimethylchlorosilane | 2.62 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | 4-hydroxy-1,5-naphthyridine-3-carbonyl chloride hydrochloride | 2.1 g | Cl.OC1=C(C=NC2=CC=CN=C12)C(=O)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | α-(4-hydroxy-1,5-napthyridine-3-carboxamido)-p-hydroxyphenylacetic acid | OC1=C(C=NC2=CC=CN=C12)C(=O)NC(C(=O)O)C1=CC=C(C=C1)O | C17H13N3O5
